US06100260
Under a nitrogen atmosphere, 2-(2-fluoro-biphenyl-4-yl)-propionic acid (15.0 g) was dissolved in N,N-dimethylformamide (150 ml) and then sodium hydride (6.14 g, 60% oily) was added, after which the resulting mixture was stirred for one hour. Subsequently, iodomethane (9.5 ml) was added and the mixture was stirred for 12 hours. A small amount of water was added to the reaction mixture and the resulting mixture was then subjected to extraction with ethyl acetate. The organic layer was dried over sodium sulfate and then concentrated under reduced pressure. The residue was purified by a recrystallization method from hexane, to obtain methyl 2-(2-fluoro-biphenyl-4-yl)-2-methyl-propionate (14.2 g).

reactant | 2-(2-fluoro-biphenyl-4-yl)-propionic acid | 15.0 g | FC1=C(C=CC(=C1)C(C(=O)O)C)C1=CC=CC=C1 | C15H13FO2
reactant | sodium hydride | 6.14 g | [H-].[Na+]
reactant | iodomethane | 9.5 ml | IC | CH3I
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | methyl 2-(2-fluoro-biphenyl-4-yl)-2-methyl-propionate | 14.2 g | FC1=C(C=CC(=C1)C(C(=O)OC)(C)C)C1=CC=CC=C1 | C17H17FO2
